US08138186B2
1) Scheme 1B-Step 1. Synthesis of 2-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yloxy)ethanol
A mixture of 1-(3,4-dichlorophenyl)-1H-pyrazol-3-ol (238 mg, 1.04 mmol; compound prepared in the same way as Example 1, Scheme 1-step 1B), 2-bromoethanol (273 mg, 2.08 mmol), potassium carbonate (0.43 g, 3.12 mmol) and sodium iodide (0.16 g, 1.04 mmol) in dimethylformamide (5 ml) was warmed, under dry nitrogen atmosphere, with stirring, to 60° C. overnight. The solvent was evaporated to dryness in vacuo and residue partitioned between water and ethyl ether. The combined organic phases were washed with water and dried over sodium sulphate, filtered and evaporated in vacuo. The residue was stirred with petroleum ether at 45° C. and decanted for 3 times to yield, after drying, 258 mg of 2-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yloxy)ethanol which was used without further purification in the next step of synthesis

reactant | 1-(3,4-dichlorophenyl)-1H-pyrazol-3-ol | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)O | C9H6Cl2N2O
reactant | 2-bromoethanol | 2.08 mmol, 273 mg | BrCCO | C2H5BrO
reactant | potassium carbonate | 3.12 mmol, 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.04 mmol, 0.16 g | [I-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yloxy)ethanol | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)OCCO | C11H10Cl2N2O2
